US05167857
0.81 g of the 4'-hexyloxy-4-α-butoxypropanoyloxyazobenzene was dissolved in 40 ml of glacial acetic acid and the mixture was stirred under heating at 50°-60° C. About 5 ml of 31% H2O2 aqueous solution was added dropwise to the mixture in about 6 hours. The mixture was further left standing for 4 hours at 50°-60° C., for 30 hours at room temperature, charged into 400 ml of deionized water and extracted with ether. The extract was washed with 50 ml of 5% Na2CO3 aqueous solution and deionized water, and then dried with anhydrous Na2SO4. After distilling off ether; the resultant yellow crystal was recrystallized in ethanol to obtain 0.3 g of 4'-hexyloxy-4-α-butoxypropanoyloxyazoxybenzene showing the following properties:

reactant | 4'-hexyloxy-4-α-butoxypropanoyloxyazobenzene | 0.81 g | C(CCCCC)OC1=CC=C(C=C1)N=NC1=CC=C(C=C1)OC(CCOCCCC)=O | C25H34N2O4
reactant | H2O2 | 5 ml | OO | H2O2
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4'-hexyloxy-4-α-butoxypropanoyloxyazoxybenzene | 0.3 g | C(CCCCC)OC1=CC=C(C=C1)N=[N+]([O-])C1=CC=C(C=C1)OC(CCOCCCC)=O | C25H34N2O5
